US04322347
(2R,3S,5R,6R) 6-Amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic Acid
A suspension of 10% palladium on charcoal (0.50 g) in ethyl acetate (25 ml) and aqueous potassium bicarbonate (0.4%, 22.5 ml, 0.10 g inorganics) was prehydrogenated at 50 psi hydrogen for 15 minutes. The suspension was charged under nitrogen with (2R,3S,5R,6R) 6-(4-nitrobenzyloxycarbonyl)amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic acid p-nitrobenzyl ester (0.54 g, 0.9 mmol) and the whole was shaken at 50 psi hydrogen pressure for 1.2 hours. The mixture (pH 5.0) was centrifuged and the aqueous phase was washed with methylene chloride (2×15 ml), combined with a water back extract (10 ml), and concentrated to about a 2 ml volume. The rich aqueous phase was diluted with deuterium oxide (4 ml) frozen on dry-ice and lyophilized to give a light yellow solid (0.25 g; theory=0.25 g+inorganics 0.10 g) in 66% product yield; nmr 100 MHz (D2O) ppm 4.63 (1, d, J=4.0 Hz, C6 --H), 4.46 (1, s, C3 --H), C5 --H under HOD, 4.18 (1, d, J=11.5, 1/2AB C2 --CHH--O), 4.01 (1, l d, J=11.5, C2 --CHHO), and 1.53 (3, s, C2 -- CH3).

reactant | potassium bicarbonate | 22.5 ml, 0.10 g | C([O-])(O)=O.[K+]
reactant | hydrogen | [H][H] | H2
reactant | (2R,3S,5R,6R) 6-(4-nitrobenzyloxycarbonyl)amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic acid p-nitrobenzyl ester | 0.9 mmol, 0.54 g | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2[C@](S[C@H]3N2C([C@H]3NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])=O)(C)COC(N)=O)C=C1 | C24H23N5O11S
catalyst | palladium on charcoal | 0.50 g | [Pd] | Pd
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3S,5R,6R) 6-Amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic Acid | 66% | N[C@H]1[C@@H]2N([C@H]([C@](S2)(C)COC(N)=O)C(=O)O)C1=O | C9H13N3O5S
